US08912329B2
To a 2 M lithium diisopropylamine solution in THF of −78° C. is added 5-benzylpyrrolidin-2-one and the mixture is stirred for 1.5 hours at −78° C. Then 1-propyl bromide is added and the reaction is stirred for another 1.5 hours at −78° C. The reaction mixture is allowed to warm up to 0° C. before ice-cold water with acetic acid is added and subsequently extracted 3 times with dichloromethane. The dichloromethane is concentrated in vacuo and the residue is dissolved in dichloromethane, washed with saturated NaHCO3 and brine. Crude 5-benzyl-3-propylpyrrolidin-2-one is obtained after removal of the solvents in vacuo. The product is purified by column chromatography.

reactant | lithium diisopropylamine | 2 M | C(C)(C)NC(C)C.[Li]
reactant | 5-benzylpyrrolidin-2-one | C(C1=CC=CC=C1)C1CCC(N1)=O | C11H13NO
reactant | 1-propyl bromide | C(CC)Br | C3H7Br
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
product | 5-benzyl-3-propylpyrrolidin-2-one | C(C1=CC=CC=C1)C1CC(C(N1)=O)CCC | C14H19NO
